US04401818
The mixture of 1.0 g of 1,2,3,4-tetrahydroquinoline-2-carboxylic acid methyl ester (Ber. 61,2377), 0.87 g of 4-carbomethoxy-2-methylbutanoyl chloride, 1.44 g of powdered potassium carbonate and 20 ml of methylene chloride is stirred at room temperature overnight. It is cooled with ice, and 50 ml of water are added. The organic layer is separated, washed with N-hydrochloric acid and water, dried and evaporated, to yield the 1-(4-carbomethoxy-2-methylbutanoyl)-1,2,3,4-tetrahydroquinoline-2-carboxylic acid methyl ester, showing NMR-peaks at 0.85, 1.25, 3.35, 3.65 and 3.75 ppm.

reactant | 1,2,3,4-tetrahydroquinoline-2-carboxylic acid methyl ester | 1.0 g | COC(=O)C1NC2=CC=CC=C2CC1 | C11H13NO2
reactant | 4-carbomethoxy-2-methylbutanoyl chloride | 0.87 g | C(=O)(OC)CCC(C(=O)Cl)C | C7H11ClO3
reactant | potassium carbonate | 1.44 g | C([O-])([O-])=O.[K+].[K+]
reactant | methylene chloride | 20 ml | C(Cl)Cl | CH2Cl2
solvent | water | 50 ml | O | H2O
product | 1-(4-carbomethoxy-2-methylbutanoyl)-1,2,3,4-tetrahydroquinoline-2-carboxylic acid methyl ester | COC(=O)C1N(C2=CC=CC=C2CC1)C(C(CCC(=O)OC)C)=O | C18H23NO5
